US09193692B2
B. 1-Ethyl-7-(2-methyl-6-(4H-1,2,4-triazol-3-yl)pyridin-3-yl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one
A mixture of 3-Bromo-2-methyl-6-(1-(tetrahydro-2H-pyran-2-yl)-1H-1,2,4-triazol-3-yl)pyridine (1 equiv), bis(pinacolato)diboron (1.05 equiv), potassium acetate (2 equiv), potassium carbonate (3 equiv), [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II), complex with dichloromethane (1:1) (0.1 equiv) in anhydrous dioxane was degassed and heated at 90° C. for 2 h. The mixture was cooled to <40° C. and 7-bromo-1-ethyl-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one (1 equiv), water and [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II), complex with dichloromethane (1:1) (0.05 equiv) were added. The mixture was degassed and heated at 65-70° C. under nitrogen for 1 h. The mixture was cooled to <40° C., diluted with water and ethyl acetate. Standard ethyl acetate/water work up followed by flash column chromatography (0-5% methanol in dichloromethane) gave the title compound in 57% yield. 1H NMR (400 MHz, DMSO-d6) δ (ppm) 7.99 (s, 2H), 7.93 (s, 1H), 7.72 (s, 1H), 4.22 (s, 2H), 4.05 (q, J=6.77 Hz, 2H), 2.71 (s, 3H), 1.18 (t, J=7.03 Hz, 3H); MS (ESI) m/z 337.6 [M+1]+.

reactant | 3-Bromo-2-methyl-6-(1-(tetrahydro-2H-pyran-2-yl)-1H-1,2,4-triazol-3-yl)pyridine | 1 equiv | BrC=1C(=NC(=CC1)C1=NN(C=N1)C1OCCCC1)C | C13H15BrN4O
reactant | bis(pinacolato)diboron | 1.05 equiv | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2 equiv | C(C)(=O)[O-].[K+]
reactant | potassium carbonate | 3 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | dichloromethane | 0.1 equiv | ClCCl | CH2Cl2
reactant | 7-bromo-1-ethyl-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | 1 equiv | BrC1=CN=C2C(=N1)N(C(CN2)=O)CC | C8H9BrN4O
reactant | dichloromethane | 0.05 equiv | ClCCl | CH2Cl2
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | O | H2O
product | 1-Ethyl-7-(2-methyl-6-(4H-1,2,4-triazol-3-yl)pyridin-3-yl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | 57% yield | C(C)N1C(CNC=2C1=NC(=CN2)C=2C(=NC(=CC2)C2=NN=CN2)C)=O | C16H16N8O
